US06953792B2
(RS)-1-(8-Phenyl-1,4-dioxaspiro[4.5]decan-8-yl)-3-[3,5-bis(trifluoromethyl)phenyl]propan-1-yl Ethanoate
Borane-tetrahydrofuran complex (1.0M in tetrahydrofuran, 12 mL, 12 mmol) was added over 10 minutes to a solution of (E)-8-phenyl-8-{3-[3,5-bis(trifluoromethyl)phenyl]prop-1-enyl}1,4-dioxaspiro[4.5]decane (Description 35, 1.88 g, 4 mmol) and the mixture was stirred at room temperature for 4.5 hours. Water (2 mL) then aqueous sodium hydroxide (4M, 20 mL) and aqueous hydrogen peroxide (30 w/v %, 20 mL) were added and the mixture was stirred at room temperature for 30 minutes. Water (150 mL) was added and the mixture was extracted with ether (2×150 mL). The combined organic fractions were dried (MgSO4) and the solvent was evaporated under reduced pressure. The residue was dissolved in pyridine (10 mL) and 4-dimethylaminopyridine (10 mg) and acetic anhydride (5 mL) were added. The mixture was stirred at room temperature for 4 hours, then water (150 mL) was added. The mixture was extracted with ethyl acetate (2×150 mL) and the combined organic fractions were washed with water (2×150 mL) and aqueous copper sulfate (5%, 2×100 mL), dried (MgSO4) and the solvent was evaporated under reduced pressure. The residue was purified by flash column chromatography on silica gel, eluting with CH2Cl2/EtOAc (99:1 increasing to 95:5), to give:

reactant | Borane tetrahydrofuran | 12 mmol, 1.0M, 12 mL | B.O1CCCC1
reactant | (E)-8-phenyl-8-{3-[3,5-bis(trifluoromethyl)phenyl]prop-1-enyl}1,4-dioxaspiro[4.5]decane | 4 mmol, 1.88 g | C1(=CC=CC=C1)C1(CCC2(OCCO2)CC1)\C=C\CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C25H24F6O2
reactant | sodium hydroxide | 4M, 20 mL | [OH-].[Na+]
reactant | hydrogen peroxide | 20 mL | OO | H2O2
solvent | Water | 150 mL | O | H2O
solvent | Water | 2 mL | O | H2O
product | (RS)-1-(8-Phenyl-1,4-dioxaspiro[4.5]decan-8-yl)-3-[3,5-bis(trifluoromethyl)phenyl]propan-1-yl Ethanoate | C(C)(=O)OC(CCC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C1(CCC2(OCCO2)CC1)C1=CC=CC=C1 | C27H28F6O4
